US05753657
The procedure is performed as in Example 13, but starting with 0.8 g of 10-(4-pyridylmethylene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one, 250 ml of dimethylformamide and 80 mg of 10% palladium on charcoal, with addition also of 10 ml of acetic acid. 0.2 g of 10-(4-pyridylmethyl)-5H,10H-imidazo[1,2-a]-indeno[1,2-e]pyrazin-4-one is obtained, in the form of a pale yellow solid melting above 260° C. (Analysis % calculated C: 72.60, H: 4.49, N: 17.82, O: 5.09, % found C: 72.3, H: 4.3, N: 17.8).

reactant | 10-(4-pyridylmethylene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.8 g | N1=CC=C(C=C1)C=C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C19H12N4O
reactant | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
catalyst | palladium on charcoal | 80 mg | [Pd] | Pd
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 10-(4-pyridylmethyl)-5H,10H-imidazo[1,2-a]-indeno[1,2-e]pyrazin-4-one | 0.2 g | N1=CC=C(C=C1)CC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C19H14N4O
